US04281141
3-(imidazol-4-yl)-2,2-diphenylpropanenitrile
A 5.80 g. portion of diphenylacetonitrile and 1.5 g. of 50% sodium hydride were reacted for 30 minutes in 20 ml. of dimethylformamide, and 2.29 g. of 4-chloromethylimidazole hydrochloride in 20 ml. of dimethylformamide was added. The reaction mixture was stirred at ambient temperature for about 15 minutes, the solvent was evaporated from the mixture under vacuum, and the residue was worked up as described in Example 1 to obtain 3.0 g. of the desired product as the free base, which was identified by 60 mHz nuclear magnetic resonance analysis in CDCl3, showing the following characteristic peaks: δ9.05 (broad m, 1H); 7.32 (m, 11H); 6.60 (s, 1H); 3.68 (s, 2H).

reactant | diphenylacetonitrile | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(imidazol-4-yl)-2,2-diphenylpropanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15N3
